US08685977B2
4-[4-chloro-3-(trifluoromethyl)phenoxy]benzonitrile
To a solution of 4-chloro-3-(trifluoromethyl)phenol (31.5 g, 160 mmol) in DMSO (200 ml) was added K2CO3 (46.5 g, 337 mmol) at room temperature under nitrogen. After 5 minutes stirring, 4-fluorobenzonitrile (19.4 g, 160 mmol) was added to the mixture in one portion and the resulting mixture was stirred at 100° C. for 18 hours. The reaction mixture was allowed to cool to room temperature and poured into ice-cold 1N aqueous NaOH solution with vigorous stirring. The precipitated solid was collected by filtration and under vacuum to afford 50 g of the title compound.

reactant | 4-chloro-3-(trifluoromethyl)phenol | 160 mmol, 31.5 g | ClC1=C(C=C(C=C1)O)C(F)(F)F | C7H4ClF3O
reactant | K2CO3 | 337 mmol, 46.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-fluorobenzonitrile | 160 mmol, 19.4 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 4-[4-chloro-3-(trifluoromethyl)phenoxy]benzonitrile | 50 g | ClC1=C(C=C(OC2=CC=C(C#N)C=C2)C=C1)C(F)(F)F | C14H7ClF3NO
